### PR TITLE
[Merged by Bors] - feat: ENNReal.add_sub_add_eq_sub_right/left

### PR DESCRIPTION
**Pull request by RemyDegenne**
Similar to `add_tsub_add_eq_tsub_right`, but for ENNReal we need the additional hypothesis that one of the terms is finite. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENNReal/Operations.lean [hunk 1]
```diff
@@ -356,6 +356,19 @@ protected theorem sub_add_eq_add_sub (hab : b ≤ a) (b_ne_top : b ≠ ∞) :
   simp only [add_assoc, add_comm c b]
   simpa only [← add_assoc] using (add_left_inj c_top).mpr <| tsub_add_cancel_of_le hab
 
+lemma add_sub_add_eq_sub_right (hc : c ≠ ∞) : (a + c) - (b + c) = a - b := by
```
Comment (sgouezel) [inline Mathlib/Data/ENNReal/Operations.lean]:
```suggestion
lemma add_sub_add_eq_sub_right (hc : c ≠ ∞ := by finiteness) : (a + c) - (b + c) = a - b := by
```

File: Mathlib/Data/ENNReal/Operations.lean [hunk 2]
```diff
@@ -356,6 +356,19 @@ protected theorem sub_add_eq_add_sub (hab : b ≤ a) (b_ne_top : b ≠ ∞) :
...
+  lift c to ℝ≥0 using hc
+  cases a <;> cases b
+  · simp
+  · simp
+  · simp
+  · norm_cast
+    rw [add_tsub_add_eq_tsub_right]
+
+lemma add_sub_add_eq_sub_left (hc : c ≠ ∞) : (c + a) - (c + b) = a - b := by
```
Comment (sgouezel) [inline Mathlib/Data/ENNReal/Operations.lean]:
```suggestion
lemma add_sub_add_eq_sub_left (hc : c ≠ ∞ := by finiteness) : (c + a) - (c + b) = a - b := by
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
